* F:\source\gect-pump-sensor\GECT ECE Pump Pressure Sensor Module\plot\RC sim.asc
V1 N002 0 PWL file="F:\source\gect-pump-sensor\GECT ECE Pump Pressure Sensor Module\dataLogs\25msDataPot5to3.log.pwl"
C1 N003 0 33µ
R1 N003 N002 47k
R2 N004 N003 47k
C2 N004 0 10µ
V2 N001 0 AC 1 0
R3 N001 0 100k
XU1 N004 N005 NC_01 NC_02 N005 level.1 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N009 N014 NC_03 NC_04 N014 level.1 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 N012 N006 NC_05 NC_06 N007 level.1 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 N006 N005 15k
R5 N012 N014 15k
R6 N007 N006 680k
R7 0 N012 680k
R8 N009 N004 68k
C3 N009 0 22µ
XU4 N013 N011 N010 0 N008 LT1720
V3 N011 0 300m
V4 N010 0 5
XU5 N017 N013 N010 0 N016 LT1720
V5 N017 0 -300m
R9 N013 N007 47k
C4 N013 0 10µ
V6 N019 0 2.66
R10 N018 N019 100k
R11 N018 N016 900k
R12 N015 N019 100k
R13 N015 N008 900k
.tran 0 148 0 0.025
* .ac lin 10000 10m 100
.lib LTC.lib
.lib UniversalOpamps2.sub
.backanno
.end
